US09260420B2
Synthesis of carbonic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester 4-nitrophenyl ester
7-[4-(4-Benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1H-quinolin-2-one (2.0 g) was suspended in anhydrous THF (40 ml) under a nitrogen atmosphere, and sodium hydride (about 55% oil) (0.22 g) was added. The mixture was refluxed for 30 min under a nitrogen atmosphere. The obtained solution was cooled to was cooled to −70° C., and a solution (20 ml) of chloromethyl-4-nitrophenyl carbonate (1.50 g) in anhydrous THF with cannula. The reaction mixture was stirred at room temperature for 3 hr. Water was added to the reaction mixture to discontinue the reaction, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated by filtration. The obtained residue was purified by silica gel column chromatography (ethyl acetate) to give the component (Rf value: 0.62, ethyl acetate, 0.67 g) as a pale-yellow amorphous compound. The obtained compound was used for the next reaction step without further purification.

reactant | 7-[4-(4-Benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1H-quinolin-2-one | 2.0 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(NC1=C2)=O | C25H27N3O2S
reactant | sodium hydride | 0.22 g | [H-].[Na+]
reactant | chloromethyl-4-nitrophenyl carbonate | 20 ml, 1.50 g | C(OC1=C(C=C(C=C1)[N+](=O)[O-])CCl)([O-])=O
reactant | Water | O | H2O
reactant | THF | 40 ml | C1CCOC1 | C4H8O
product | carbonic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester 4-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(OCN1C(C=CC2=CC=C(C=C12)OCCCCN1CCN(CC1)C1=CC=CC=2SC=CC21)=O)=O | C33H32N4O7S
